US07994209B2
(S)-3-[(S)-1-(2,4-Dichlorophenoxy)propyl]pyrrolidine
60% NaH in mineral oil (60:40, NaH:mineral oil, 10 mg, 260 μmmol) was slowly added to a mixture of (S)-3-(S)-1-hydroxypropyl)pyrrolidine-1-carboxylic acid t-butyl ester (50 mg, 0.2 mmol, 1 eq.) in DMF (680 μL, 8.7 mmol). The resulting mixture was stirred for 15 minutes, at room temperature. 2,4-Dichloro-1-fluorobenzene (76 μL, 3 eq.) was added and the mixture was heated at 90° C. for 3 hours. The reaction was quenched with MeOH (1 mL). DMF and MeOH was removed under reduced pressure, leaving the BOC-protected intermediate, (S)-3-[(S)-1-(2,4-dichlorophenoxy)propyl]pyrrolidine-1-carboxylic acid t-butyl ester. Deprotection was carried out using 1.25 M HCl in EtOH (1.7 mL, 2.2 mmol). The mixture was stirred overnight at room temperature. The product was then purified by preparative HPLC to yield the title compound as a mono-TFA salt (41.5 mg). MS m/z: [M+H]+ calcd for C13H17Cl2NO, 274.07; found 274.0.

reactant | (S)-3-[(S)-1-(2,4-dichlorophenoxy)propyl]pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CC)OC1=C(C=C(C=C1)Cl)Cl | C18H25Cl2NO3
reactant | HCl | 1.25 M | Cl | ClH
reactant | EtOH | 2.2 mmol, 1.7 mL | CCO | C2H6O
product | (S)-3-[(S)-1-(2,4-Dichlorophenoxy)propyl]pyrrolidine | ClC1=C(O[C@@H](CC)[C@@H]2CNCC2)C=CC(=C1)Cl | C13H17Cl2NO
